US06080782
A9. Methyl 4-methoxy-3-(2-oxocyclopentyloxy)benzoate
23.8 g of methyl 3-hydroxy-4-methoxybenzoate are dissolved in 200 ml of anhydrous DMF and the solution is treated with 35 g of potassium carbonate (ground) and 13 ml of 2-chlorocyclopentanone. The mixture is stirred at 60° C. for 3 h, then the solid is filtered off with suction and the filtrate is concentrated in vacuo. The residue is chromatographed on a silica gel column using ethyl acetate/petroleum ether (4:6). The chromatographically pure fractions are combined, concentrated and dried in a high vacuum. 24.3 g of the title compound are obtained as a pale yellow oil.

reactant | methyl 3-hydroxy-4-methoxybenzoate | 23.8 g | OC=1C=C(C(=O)OC)C=CC1OC | C9H10O4
reactant | potassium carbonate | 35 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chlorocyclopentanone | 13 ml | ClC1C(CCC1)=O | C5H7ClO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | Methyl 4-methoxy-3-(2-oxocyclopentyloxy)benzoate | 24.3 g | COC1=C(C=C(C(=O)OC)C=C1)OC1C(CCC1)=O | C14H16O5
